US04151106
One liter of water in a glass vessel of a capacity of 5 liters is cooled to 4° C. with ice. 75 g of Na2O2 are dissolved in water with agitation and cooling. Subsequently, a mixture prepared in advance from 260 g benzoyl chloride and 200 g of a commercially available desensitizing agent on the basis of phthalic ester (Ultramoll TGN, from the firm Bayer A. G., Leverkusen) is added drop by drop to the sodium peroxide solution within 20 minutes. During the first 10 minutes the temperature is held at about 8° C. by means of the addition of ice. During the following 10 minutes ice is added so that the temperature can slowly rise to 15° C. Subsequently, the reaction mixture is for 1/2 hour allowed to continue reacting while being agitated, and 12 g of zinc stearate are stirred into the reaction mixture. The pasty constituents are separated from the excess liquid in a centrifuge with settling sump. After two washing cycles and dehydration by means of a centrifuge one obtains a homogeneous, stable benzoyl peroxide paste with about 50% peroxide, 43% desensitizing agent and a remainder of water and zinc stearate. The paste has a viscosity of 1800 poise.

reactant | benzoyl chloride | 260 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium peroxide | [O-][O-].[Na+].[Na+]
solvent | water | O | H2O
catalyst | zinc stearate | 12 g | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Zn+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
solvent | water | One liter | O | H2O
product | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
